US09061030B2
To a suspension of 2-(1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazol-3-yl)pyrimidin-4,5,6-triamine (I-57, 0.31 mmol) in pyridine (2.0 mL) at 0° C. was treated with methyl chloroformate (1 equiv). After 30 min, additional portions of methyl chloroformate (3 equiv) were added and the reaction was stirred for 3 h. The reaction mixture was poured into water and the resultant tan solid was collected by filtration to afford methyl 4,6-diamino-2-(1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazol-3-yl)pyrimidin-5-ylcarbamate (74% yield).

reactant | 2-(1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazol-3-yl)pyrimidin-4,5,6-triamine | 0.31 mmol | FC1=C(CN2N=C(N=C2C=2SC=CN2)C2=NC(=C(C(=N2)N)N)N)C=CC=C1 | C16H14FN9S
reactant | methyl chloroformate | 1 equiv | ClC(=O)OC | C2H3ClO2
reactant | methyl chloroformate | 3 equiv | ClC(=O)OC | C2H3ClO2
reactant | water | O | H2O
solvent | pyridine | 2.0 mL | N1=CC=CC=C1 | C5H5N
product | methyl 4,6-diamino-2-(1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazol-3-yl)pyrimidin-5-ylcarbamate | 74% yield | NC1=NC(=NC(=C1NC(OC)=O)N)C1=NN(C(=N1)C=1SC=CN1)CC1=C(C=CC=C1)F | C18H16FN9O2S
